US07615642B2
Step B: 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carboxylic acid
Butyllithium (7.0 mL, 2.0 M, 14 mmol) was added to a solution of 1H-pyrrole-3-carboxylic acid (0.67 g, 6.0 mmol) in THF (35 mL) at −78° C. Stirring for 45 min at −78° C. and 30 min at 0° C., 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride (1.86 g, 5.0 mmol) was added. The reaction mixture was stirred overnight at room temperature, diluted with EtOAc (200 mL), washed with 2N HCl (2×20 mL), NaCl (20 mL) and dried over Na2SO4. The crude product was purified by MPLC using CH2Cl2/MeOH (20:1) on silica gel to 0.40 g (18%) of a white solid as the title compound. MS (ESI) (M+H)+=445.98.

reactant | Butyllithium | 14 mmol, 2.0 M, 7.0 mL | C(CCC)[Li]
reactant | 1H-pyrrole-3-carboxylic acid | 6.0 mmol, 0.67 g | N1C=C(C=C1)C(=O)O | C5H5NO2
reactant | 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride | 5.0 mmol, 1.86 g | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)Cl | C17H23ClN2O3S
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carboxylic acid | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2C=C(C=C2)C(=O)O | C22H27N3O5S
